US04757080
(b) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(3-cyanopropoxy)carbonyl-pyridine
0.55 g (11 mmol) of sodium cyanide in 15 ml of dimethylsulphoxide are added dropwise at a reaction temperature of 60° C. to a solution of 4.09 g (10 mmol) of 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(3-chloropropoxy)carbonyl-pyridine in 10 ml of dimethylsulphoxide. The reaction mixture is then stirred for 2.5 hours at 120° C. and is poured into 150 ml of ice water after it has cooled down. The mixture is extracted with 3×50 ml of ethyl acetate. After dehydration and concentration of the organic phases by evaporation under vacuum, 5.7 g of a brown oil are obtained. This oil is chromatographed on silica gel with dichloromethane/methanol (99:1). After concentration by evaporation under vacuum and recrystallisation of the residue from methanol, the main fraction yields 2.7 g (68%) of yellow crystals, melting point 48°-51° C.

reactant | sodium cyanide | 11 mmol, 0.55 g | [C-]#N.[Na+]
reactant | 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(3-chloropropoxy)carbonyl-pyridine | 10 mmol, 4.09 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCl)C | C19H21ClN2O6
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(3-cyanopropoxy)carbonyl-pyridine | 2.7 g, 68% | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCC#N)C | C20H21N3O6
